US05451344
The process of Example 1 was followed except for the following: in Step 4, 2-fluorobenzoyl chloride was used in place of 3-methylbenzoyl chloride and reacted with anisole in place of benzene to yield 2-fluoro-4'-methoxybenzophenone; in Step 5, 2-fluoro-4'-methoxybenzophenone was used in place of 3-methylbenzophenone to produce 1-(2-fluorophenyl)-1-(4-methoxyphenyl)-2-propyn-1-ol; and in Step 6, 1-(2-fluorophenyl)-1-(4-methoxyphenyl)-2-propyn-1-ol was used in place of 1-(3-methylphenyl)-1-phenyl-2-propyn-1-ol. The recovered product, about 4.0 grams, had a melting point of 144° to 146° C. A nuclear magnetic resonance (NMR) spectrum showed the recovered product to have a structure consistent with 7-(2-fluorophenyl)-7-(4-methoxyphenyl)-7H-2-methyl-2,3-dihydrofuro[3',2',:5,6]naphtho[2,1-b]pyran.

reactant | 2-fluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
product | 2-fluoro-4'-methoxybenzophenone | FC1=C(C(=O)C2=CC=C(C=C2)OC)C=CC=C1 | C14H11FO2
